US07423030B2
17.3. 4-Benzyl-1-chloro-7-methoxyphthalazine
This compound is obtained according to the procedure described in 1.3. by reacting 4-benzyl-7-methoxy-2H-phthalazin-1-one with phosphoryl chloride.

reactant | 4-benzyl-7-methoxy-2H-phthalazin-1-one | C(C1=CC=CC=C1)C1=NNC(C2=CC(=CC=C12)OC)=O | C16H14N2O2
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Benzyl-1-chloro-7-methoxyphthalazine | C(C1=CC=CC=C1)C1=NN=C(C2=CC(=CC=C12)OC)Cl | C16H13ClN2O
